US08835432B2
A thick slurry of 8-chloro-3-ethylquinoxalin-2(1H)-one (1.00 Kg, 4.79 mol) in POCl3 (2.68 L, 28.8 mol) was stirred at 100° C. for 2 h. At this time LC-MS analysis showed that the reaction was complete. After the removal of most of the POCl3 under reduced pressure, the residue was poured carefully into ice-water and neutralized with a combination of 2M aq. NaOH and saturated aq. NaHCO3. The resulting suspension was extracted with DCM (3×4 L). The organic phase was washed with brine, dried over anhydrous Na2SO4, filtered, and evaporated under reduced pressure. The crude was purified by flash column chromatography eluting with hexane/EtOAc (30/1) to give 3,5-dichloro-2-ethylquinoxaline (840 g) as a white solid. 1H NMR (DMSO-d6) δ ppm 8.01-8.08 (m, 2H), 7.84 (t, J=8.0 Hz, 1H), 3.10-3.17 (d, J=7.3 Hz, 2H), 1.36 (t, J=7.3 Hz, 3H). Mass Spectrum (ESI) m/z=227.1 (M+1).

reactant | 8-chloro-3-ethylquinoxalin-2(1H)-one | 4.79 mol, 1.00 Kg | ClC=1C=CC=C2N=C(C(NC12)=O)CC | C10H9ClN2O
reactant | POCl3 | 28.8 mol, 2.68 L | O=P(Cl)(Cl)Cl | Cl3OP
product | 3,5-dichloro-2-ethylquinoxaline | 840 g | ClC=1C(=NC2=CC=CC(=C2N1)Cl)CC | C10H8Cl2N2
